US06958205B2
A reaction container was charged with 1-(4-methylphenyl)piperidine (4.0 g, 22.8 mmol) and 10 ml of acetone and the mixture was stirred at ambient temperature. Then, α-bromo-p-xylene (5 g, 27.4 mmol) was added to the reaction solution. The reaction solution was stirred for 3 hours and 20 ml of ethyl acetate was added to the solution. The reaction mixture was further stirred for 30 minutes and subjected to suction filtration to collect a white powder. The resulting powder was dried to obtain 4-methylbenzyl(4-methylphenyl)piperidiniumbromide (6.8 g, yield: 83%).

reactant | 1-(4-methylphenyl)piperidine | 22.8 mmol, 4.0 g | CC1=CC=C(C=C1)N1CCCCC1 | C12H17N
reactant | acetone | 10 ml | CC(=O)C | C3H6O
reactant | α-bromo-p-xylene | 27.4 mmol, 5 g | BrCC1=CC=C(C=C1)C | C8H9Br
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 4-methylbenzyl(4-methylphenyl)piperidiniumbromide | 6.8 g, yield: 83% | [Br-].CC1=CC=C(C[N+]2(CCCCC2)C2=CC=C(C=C2)C)C=C1 | InChI=1S/C20H26N.BrH/c1-17-6-10-19(11-7-17)16-21(14-4-3-5-15-21)20-12-8-18(2)9-13-20;/h6-13H,3-5,14-16H2,1-2H3;1H/q+1;/p-1
